US06437184B1
To a mixture of 1.29 g of O-(2,4,6-trimethylbenzenesulfonyl)hydroxylamine (which had been produced according to the method as described in Synthesis, 1-17 (1977)) and 10 ml of diethyl ether was added 1.14 g of sodium 1,1,1,3,3,3-hexafluoro-2-propyloxide with stirring under ice cooling, and the mixture was stirred for 2 hours. The suspended reaction mixture was filtered through Celite to give a filtrate which was a solution of O-(1,1,1,3,3,3-hexafluoro-2-propyl)hydroxylamine in diethyl ether. The addition of diethyl ether to this filtrate made the diethyl ether solution have the weight of 30 g. Then, 10 g of the diethyl ether solution and 0.1 ml of concentrated hydrochloric acid were poured into a reaction vessel containing 0.37 g of 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentanal. After stirring at room temperature for 2 hours, the reaction mixture was poured into diluted hydrochloric acid, and extracted twice with diethyl ether. The diethyl ether layers were combined, washed with water, dried over anhydrous magnesium sulfate, and concentrated to give a crude product. This crude product was subjected to preparative thin layer chromatography, which afforded 0.27 g (yield, 50%) of 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentanal O-(1,1,1,3,3,3-hexafluoro-2-propyl)oxime, nD24.5 1.4850.

reactant | O-(2,4,6-trimethylbenzenesulfonyl)hydroxylamine | 1.29 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)ON | C9H13NO3S
reactant | sodium 1,1,1,3,3,3-hexafluoro-2-propyloxide | 1.14 g | FC(C(C(F)(F)F)OC(C(F)(F)F)C(F)(F)F)(F)F.[Na]
reactant | O-(1,1,1,3,3,3-hexafluoro-2-propyl)hydroxylamine | FC(C(C(F)(F)F)ON)(F)F | C3H3F6NO
reactant | hydrochloric acid | 0.1 ml | Cl | ClH
reactant | 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentanal | 0.37 g | ClC1=C(OCCCCC=O)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C14H14Cl4O3
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 10 g | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentanal O-(1,1,1,3,3,3-hexafluoro-2-propyl)oxime | 0.27 g, 50% | FC(C(C(F)(F)F)ON=CCCCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl)(F)F | C17H15Cl4F6NO3
